* Ideal op-amp - multysm core pack (not a vendor model).
* Open-loop gain 1e5, input resistance 1e12, output 1 ohm, output limited to the supply pins.
* Modeled as a transconductance stage into a heavily damped pole (for DC/transient
* solver stability) followed by a rail-clamped output stage, rather than a single
* hard-clamped high-gain source: ngspice's Newton solver cannot reliably converge
* on a bare `min(max(1e5*Vid, ...))` source because its derivative collapses to
* zero the instant it saturates, leaving no gradient to correct the virtual-ground
* node back into the linear region.
.subckt OPAMP_IDEAL inp inn out vpos vneg
Rin inp inn 1e12
Bgm 0 n1 I = 1e-3*max(min(V(inp)-V(inn), 1e-2), -1e-2)
R1 n1 0 100Meg
C1 n1 0 10p
Bout oint 0 V = min(max(V(n1), V(vneg)), V(vpos))
Rout oint out 1
.ends OPAMP_IDEAL
