* Ideal op-amp - multysm core pack (not a vendor model).
* Open-loop gain 1e5, input resistance 1e12, output 1 ohm, output limited to the supply pins.
* Modeled as a transconductance stage into a lightly damped pole followed by a
* rail-clamped output stage, rather than a single hard-clamped high-gain source:
* ngspice's Newton solver cannot reliably converge on a bare
* `min(max(1e5*Vid, ...))` source because its derivative collapses to zero the
* instant it saturates, leaving no gradient to correct the virtual-ground node
* back into the linear region. The pole (R1//C1) is placed far above any
* frequency this part should ever be used at: gm=1e-3, R1=100Meg gives the
* required DC gain gm*R1=1e5, and C1=0.1p keeps GBW = gm/(2*pi*C1) ~= 1.6 GHz,
* so the part still behaves as an "ideal" (effectively infinite-bandwidth)
* op-amp for any realistic AC/transient circuit. The Bgm input clamp is scaled by
* the supply rails (not a fixed voltage) so the internal node n1 can only wind up
* to about 1 V beyond vpos/vneg instead of drifting to +-1000 V while saturated,
* which keeps recovery from overdrive fast.
.subckt OPAMP_IDEAL inp inn out vpos vneg
Rin inp inn 1e12
Bgm 0 n1 I = 1e-3*max(min(V(inp)-V(inn), (V(vpos)+1)/1e5), (V(vneg)-1)/1e5)
R1 n1 0 100Meg
C1 n1 0 0.1p
Bout oint 0 V = min(max(V(n1), V(vneg)), V(vpos))
Rout oint out 1
.ends OPAMP_IDEAL
